US04463172
A solution of 294 mg of diphenylmethyl 7-[2-phenyl-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate in 0.3 ml of anisole and 10 ml of CF3COOH was stirred at room temperature for 20 minutes. After distilling off the CF3COOH under reduced pressure, the residue was dissolved in AcOEt and then transferred into 5% aqueous NaHCO3. The water layer was adjusted to pH 2.0 with 5% H3PO4 added, and extracted again with AcOEt. The AcOEt layer was washed with H2O and saturated aqueous NaCl solution, successively, and dried over Na2SO4, followed by distilling off the AcOEt under reduced pressure. The residue was treated with Et2O, thus yielding 114 mg (54%) of 7-[2-phenyl-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylic acid as crystals.

reactant | diphenylmethyl 7-[2-phenyl-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate | 294 mg | C1(=CC=CC=C1)/C(/C(=O)NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C32H30N4O6S
solvent | anisole | 0.3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | CF3COOH | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-[2-phenyl-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylic acid | 114 mg, 54% | C1(=CC=CC=C1)/C(/C(=O)NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)O)C1=O)=N/OC | C19H20N4O6S
